US08314103B2
2-Chloro-N-(6-cyanopyridin-3-yl)propionamide
Triethylamine (0.635 g, 6.3 mmol) was added to a suspension of 5-amino-2-cyano-pyridine (0.500 g, 4.2 mmol) in dry dichloromethane (10 mL) under stirring at 0° C. To this, 2-chloropropionyl chloride (0.800 g, 6.3 mmol) was added dropwise and the reaction mixture was stirred at 0° C. for 1 hour and then at room temperature for 3 hours. Reaction mixture was diluted with dichloromethane (50 mL) and was washed with saturated sodium bicarbonate solution (50 mL) and water (50 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated. The crude product obtained was purified using column chromatography (silica gel, 30% ethyl acetate in petroleum ether as an eluent), and further crystallized from ethyl acetate and petroleum ether to obtain the title compound.

reactant | Triethylamine | 6.3 mmol, 0.635 g | C(C)N(CC)CC | C6H15N
reactant | 5-amino-2-cyano-pyridine | 4.2 mmol, 0.500 g | NC=1C=CC(=NC1)C#N | C6H5N3
reactant | 2-chloropropionyl chloride | 6.3 mmol, 0.800 g | ClC(C(=O)Cl)C | C3H4Cl2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-Chloro-N-(6-cyanopyridin-3-yl)propionamide | ClC(C(=O)NC=1C=NC(=CC1)C#N)C | C9H8ClN3O
